US06492403B1
e) Methyl 5-methyl-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxylate
A solution of 200 mg (0.93 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiophene-2-carboxylate was reacted with 185 mg (0.93 mmol) of 2-bromoacetophenone in a manner similar to Example 8, step (a) to give, after purification by preparative thin layer chromatography eluting with hexanes:ethyl acetate 7/3 (v:v), a mixture of methyl 5-methyl-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxylate and methyl 4-cyano-5-methylthiophene-2-carboxylate (96 mg, 36%) as a solid.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiophene-2-carboxylate | 0.93 mmol, 200 mg | NC(C=1C=C(SC1C)C(=O)OC)=S | C8H9NO2S2
reactant | 2-bromoacetophenone | 0.93 mmol, 185 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | Methyl 5-methyl-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxylate | CC1=C(C=C(S1)C(=O)OC)C=1SC=C(N1)C1=CC=CC=C1 | C16H13NO2S2
